US06407228B1
A Teflon tube containing a mixture of 0.16 g (2.8 mmoles) of methyl isocyanate, 0.27 g (3.8 mmoles) of ethyl vinyl ether and 2 ml of toluene was sealed and introduced into a high-pressure reactor and the mixture was heated at 130° C. under a pressure of 8000 atmospheres for 20 hours. The reaction mixture taken out was evaporated and then purified by distillation under reduced pressure to obtain 1-methyl-4-ethoxy-2-azetidinone in a yield of 16% of the theoretical value.

reactant | methyl isocyanate | 2.8 mmoles, 0.16 g | CN=C=O | C2H3NO
reactant | ethyl vinyl ether | 3.8 mmoles, 0.27 g | C(=C)OCC | C4H8O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-ethoxy-2-azetidinone | yield of 16% | CN1C(CC1OCC)=O | C6H11NO2
